* Extracted Netlist
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd

* Supply
Vdd vdd gnd 'SUPPLY'

* SPICE3 file created from CLA.ext - technology: scmos

.option scale=0.09u

M1000 gnd a_123_n363# C1 Gnd CMOSN w=11 l=2
+  ad=4886 pd=2452 as=55 ps=32
M1001 a_176_n397# a_134_n399# gnd Gnd CMOSN w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1002 C3_Inter_NAND G2_Not a_176_n561# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=160 ps=56
M1003 G1_Not A1 a_24_n316# Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=320 ps=96
M1004 a_76_n625# A3 vdd w_63_n631# CMOSP w=80 l=2
+  ad=640 pd=176 as=6960 ps=3224
M1005 G3_Not B3 vdd w_11_n591# CMOSP w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1006 C3_Inter_NOR P3_Not gnd Gnd CMOSN w=5 l=2
+  ad=40 pd=26 as=0 ps=0
M1007 a_188_n470# C2_Inter_NOR vdd w_63_n631# CMOSP w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1008 a_24_n536# A2 gnd Gnd CMOSN w=11 l=2
+  ad=90 pd=56 as=0 ps=0
M1009 a_188_n431# C2_Inter_NOR gnd Gnd CMOSN w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1010 B0 A0 Inter_S0 w_11_n263# CMOSP w=10 l=2
+  ad=60 pd=32 as=60 ps=32
M1011 gnd B0 P0_Not Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=320 ps=96
M1012 a_110_n303# P1_Not a_110_n264# w_63_n303# CMOSP w=40 l=2
+  ad=200 pd=90 as=320 ps=96
M1013 G0_Not B0 vdd w_11_n99# CMOSP w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1014 C3_Inter_NAND a_134_n563# vdd w_63_n631# CMOSP w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1015 gnd P3_Not a_110_n631# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1016 Inter_S2 B2 A2 w_11_n591# CMOSP w=10 l=2
+  ad=60 pd=32 as=50 ps=30
M1017 a_134_n399# a_110_n467# vdd w_63_n467# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1018 G0_Not A0 a_24_n152# Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=320 ps=96
M1019 a_76_n461# A2 vdd w_63_n467# CMOSP w=80 l=2
+  ad=640 pd=176 as=0 ps=0
M1020 a_188_n306# Cin a_188_n267# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=160 ps=56
M1021 vdd C0_Inter_01 C0 w_103_n173# CMOSP w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1022 a_176_n233# a_134_n235# gnd Gnd CMOSN w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1023 G2_Not B2 vdd w_11_n427# CMOSP w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1024 vdd C1_Inter_NAND a_151_n345# w_63_n467# CMOSP w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1025 Inter_S1 B1 A1 w_11_n427# CMOSP w=10 l=2
+  ad=60 pd=32 as=50 ps=30
M1026 a_134_n235# a_110_n303# vdd w_63_n303# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1027 a_24_n700# A3 vdd w_11_n706# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1028 a_188_n306# C1_inter_NOR vdd w_63_n467# CMOSP w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1029 P1_Not B1 a_76_n297# w_63_n303# CMOSP w=80 l=2
+  ad=400 pd=170 as=640 ps=176
M1030 P2_Not A2 gnd Gnd CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1031 a_24_n480# B2 gnd Gnd CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1032 Inter_S1 B1 a_24_n372# Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=90 ps=56
M1033 C1_inter_NOR P0_Not a_161_n308# w_63_n467# CMOSP w=15 l=2
+  ad=75 pd=40 as=120 ps=46
M1034 a_110_n132# P0_Not gnd Gnd CMOSN w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1035 vdd A1 G1_Not w_11_n263# CMOSP w=40 l=2
+  ad=0 pd=0 as=320 ps=96
M1036 a_110_n93# P0_Not vdd w_63_n139# CMOSP w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1037 gnd P0_Not C1_inter_NOR Gnd CMOSN w=10 l=2
+  ad=0 pd=0 as=80 ps=36
M1038 P1_Not A1 gnd Gnd CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1039 Inter_S0 B0 a_24_n208# Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=90 ps=56
M1040 vdd a_122_n509# C2 w_63_n631# CMOSP w=22 l=2
+  ad=0 pd=0 as=110 ps=54
M1041 a_110_n428# G2_Not vdd w_63_n467# CMOSP w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1042 a_24_n536# A2 vdd w_11_n591# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1043 P0_Not B0 a_76_n133# w_63_n139# CMOSP w=80 l=2
+  ad=400 pd=170 as=640 ps=176
M1044 a_24_n316# B1 gnd Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1045 a_122_n509# a_118_n511# gnd Gnd CMOSN w=10 l=2
+  ad=80 pd=36 as=0 ps=0
M1046 P0_Not A0 gnd Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1047 a_110_n264# G1_Not vdd w_63_n303# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1048 vdd a_123_n363# C1 w_63_n467# CMOSP w=22 l=2
+  ad=0 pd=0 as=110 ps=54
M1049 a_110_n631# G3_Not gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1050 C2_Inter_01 a_188_n470# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1051 C2_Inter_NAND G1_Not a_176_n397# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1052 B3 A3 Inter_S3 w_11_n706# CMOSP w=10 l=2
+  ad=60 pd=32 as=60 ps=32
M1053 a_24_n372# A1 vdd w_11_n427# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1054 a_24_n152# B0 gnd Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1055 B3 a_24_n700# Inter_S3 Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=30 ps=22
M1056 gnd P2_Not C3_Inter_NOR Gnd CMOSN w=5 l=2
+  ad=0 pd=0 as=0 ps=0
M1057 a_24_n372# A1 gnd Gnd CMOSN w=11 l=2
+  ad=0 pd=0 as=0 ps=0
M1058 a_188_n267# C1_inter_NOR gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1059 C0 G0_Not vdd w_103_n173# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1060 vdd G2_Not C3_Inter_NAND w_63_n631# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1061 C2_Inter_NAND a_134_n399# vdd w_63_n467# CMOSP w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1062 gnd P2_Not a_110_n467# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1063 C1_inter_01 a_188_n306# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1064 a_76_n297# A1 vdd w_63_n303# CMOSP w=80 l=2
+  ad=0 pd=0 as=0 ps=0
M1065 a_24_n208# A0 gnd Gnd CMOSN w=11 l=2
+  ad=0 pd=0 as=0 ps=0
M1066 C0_Inter_01 a_110_n132# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1067 C1_Inter_NAND G0_Not a_176_n233# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1068 Inter_S0 B0 A0 w_11_n263# CMOSP w=10 l=2
+  ad=0 pd=0 as=50 ps=30
M1069 G1_Not B1 vdd w_11_n263# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1070 B2 a_24_n536# Inter_S2 Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=30 ps=22
M1071 C1_Inter_NAND a_134_n235# vdd w_63_n303# CMOSP w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1072 a_161_n636# P3_Not vdd w_155_n650# CMOSP w=10 l=2
+  ad=80 pd=36 as=0 ps=0
M1073 gnd P1_Not a_110_n303# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1074 a_76_n133# A0 vdd w_63_n139# CMOSP w=80 l=2
+  ad=0 pd=0 as=0 ps=0
M1075 a_151_n509# a_118_n511# a_122_n509# w_63_n631# CMOSP w=20 l=2
+  ad=160 pd=56 as=100 ps=50
M1076 C2_Inter_01 a_188_n470# vdd w_63_n631# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1077 a_161_n472# P2_Not vdd w_63_n631# CMOSP w=15 l=2
+  ad=120 pd=46 as=0 ps=0
M1078 C0 C0_Inter_01 a_116_n206# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=160 ps=56
M1079 a_134_n563# a_110_n631# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1080 gnd B3 P3_Not Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=320 ps=96
M1081 Intermediate a_118_n347# gnd Gnd CMOSN w=10 l=2
+  ad=80 pd=36 as=0 ps=0
M1082 gnd C2_Inter_NAND a_122_n509# Gnd CMOSN w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1083 C2_Inter_NOR P2_Not gnd Gnd CMOSN w=10 l=2
+  ad=80 pd=36 as=0 ps=0
M1084 G3_Not A3 a_24_n644# Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=320 ps=96
M1085 a_110_n467# G2_Not gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1086 a_110_n631# P3_Not a_110_n592# w_63_n631# CMOSP w=40 l=2
+  ad=200 pd=90 as=320 ps=96
M1087 a_134_n399# a_110_n467# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1088 C1_inter_01 a_188_n306# vdd w_63_n467# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1089 vdd G1_Not C2_Inter_NAND w_63_n467# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1090 a_24_n208# A0 vdd w_11_n263# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1091 B2 A2 Inter_S2 w_11_n591# CMOSP w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1092 a_176_n561# a_134_n563# gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1093 C0_Inter_01 a_110_n132# vdd w_63_n139# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1094 Inter_S3 B3 A3 w_11_n706# CMOSP w=10 l=2
+  ad=0 pd=0 as=50 ps=30
M1095 a_134_n563# a_110_n631# vdd w_63_n631# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1096 a_110_n303# G1_Not gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1097 Inter_S3 B3 a_24_n700# Gnd CMOSN w=5 l=2
+  ad=0 pd=0 as=90 ps=56
M1098 B1 A1 Inter_S1 w_11_n427# CMOSP w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1099 vdd A0 G0_Not w_11_n99# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1100 B1 a_24_n372# Inter_S1 Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=0 ps=0
M1101 P3_Not B3 a_76_n625# w_63_n631# CMOSP w=80 l=2
+  ad=400 pd=170 as=0 ps=0
M1102 vdd A3 G3_Not w_11_n591# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1103 vdd G0_Not C1_Inter_NAND w_63_n303# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1104 C3_Inter_NOR P2_Not a_161_n636# w_155_n650# CMOSP w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1105 vdd C0 a_188_n470# w_63_n631# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1106 a_188_n470# C0 a_188_n431# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1107 a_116_n206# G0_Not gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1108 P3_Not A3 gnd Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1109 B0 a_24_n208# Inter_S0 Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=0 ps=0
M1110 a_151_n345# a_118_n347# Intermediate w_63_n467# CMOSP w=20 l=2
+  ad=0 pd=0 as=100 ps=50
M1111 vdd C2_Inter_NAND a_151_n509# w_63_n631# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1112 a_24_n644# B3 gnd Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1113 Inter_S2 B2 a_24_n536# Gnd CMOSN w=5 l=2
+  ad=0 pd=0 as=0 ps=0
M1114 C2_Inter_NOR P1_Not a_161_n472# w_63_n631# CMOSP w=15 l=2
+  ad=75 pd=40 as=0 ps=0
M1115 P2_Not B2 a_76_n461# w_63_n467# CMOSP w=80 l=2
+  ad=400 pd=170 as=0 ps=0
M1116 a_110_n592# G3_Not vdd w_63_n631# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1117 gnd C1_Inter_NAND Intermediate Gnd CMOSN w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1118 vdd A2 G2_Not w_11_n427# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1119 a_161_n308# P1_Not vdd w_63_n467# CMOSP w=15 l=2
+  ad=0 pd=0 as=0 ps=0
M1120 vdd Cin a_188_n306# w_63_n467# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1121 gnd P1_Not C2_Inter_NOR Gnd CMOSN w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1122 a_110_n132# Cin_Not a_110_n93# w_63_n139# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1123 gnd B2 P2_Not Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1124 G2_Not A2 a_24_n480# Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1125 a_24_n700# A3 gnd Gnd CMOSN w=11 l=2
+  ad=0 pd=0 as=0 ps=0
M1126 gnd a_122_n509# C2 Gnd CMOSN w=11 l=2
+  ad=0 pd=0 as=55 ps=32
M1127 a_134_n235# a_110_n303# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1128 gnd Cin_Not a_110_n132# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1129 C1_inter_NOR P1_Not gnd Gnd CMOSN w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1130 gnd B1 P1_Not Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1131 a_110_n467# P2_Not a_110_n428# w_63_n467# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
C0 w_11_n427# B2 0.06fF
C1 w_63_n467# A2 0.06fF
C2 B2 Inter_S2 0.35fF
C3 A2 a_24_n536# 0.16fF
C4 w_63_n631# C2_Inter_NAND 0.42fF
C5 C2_Inter_NAND a_122_n509# 0.03fF
C6 vdd B2 0.05fF
C7 gnd P2_Not 1.18fF
C8 C1_Inter_NAND a_118_n347# 0.02fF
C9 P2_Not a_134_n563# 0.07fF
C10 gnd C2_Inter_NOR 0.51fF
C11 w_11_n591# Inter_S2 0.03fF
C12 w_63_n631# a_122_n509# 0.09fF
C13 C0 a_134_n399# 0.00fF
C14 w_11_n591# G3_Not 0.15fF
C15 w_11_n706# B3 0.40fF
C16 P1_Not a_134_n399# 0.07fF
C17 w_11_n99# G0_Not 0.15fF
C18 w_63_n139# vdd 0.85fF
C19 A3 P3_Not 0.03fF
C20 gnd Inter_S2 0.28fF
C21 w_11_n427# gnd 0.02fF
C22 w_63_n139# C0_Inter_01 0.04fF
C23 w_11_n591# vdd 0.13fF
C24 gnd G3_Not 0.09fF
C25 w_11_n263# B1 0.06fF
C26 w_63_n467# C0 0.01fF
C27 A0 P0_Not 0.03fF
C28 w_63_n303# C1_Inter_NAND 0.15fF
C29 w_63_n467# P1_Not 0.54fF
C30 vdd gnd 0.73fF
C31 w_11_n263# B0 0.40fF
C32 A0 B1 0.02fF
C33 vdd a_134_n563# 0.12fF
C34 P0_Not C1_Inter_NAND 0.00fF
C35 gnd G1_Not 0.15fF
C36 w_63_n467# C1_inter_NOR 0.14fF
C37 A2 G2_Not 0.53fF
C38 a_110_n631# a_134_n563# 0.05fF
C39 B0 A0 1.61fF
C40 A1 P1_Not 0.03fF
C41 gnd Inter_S3 0.12fF
C42 vdd a_134_n235# 0.17fF
C43 P2_Not C2_Inter_NOR 0.02fF
C44 C2_Inter_NAND a_134_n399# 0.09fF
C45 vdd a_161_n308# 0.01fF
C46 gnd a_188_n306# 0.02fF
C47 w_63_n467# C1 0.06fF
C48 w_63_n467# C2_Inter_NAND 0.15fF
C49 B1 Inter_S1 0.35fF
C50 A1 a_24_n372# 0.16fF
C51 a_110_n303# a_134_n235# 0.05fF
C52 G2_Not P3_Not 0.00fF
C53 P2_Not G3_Not 0.00fF
C54 C1_Inter_NAND Intermediate 0.03fF
C55 vdd a_123_n363# 0.02fF
C56 gnd a_118_n347# 0.02fF
C57 vdd P2_Not 0.12fF
C58 P2_Not a_110_n631# 0.02fF
C59 G1_Not P2_Not 0.00fF
C60 P1_Not G2_Not 0.00fF
C61 a_188_n470# C2_Inter_01 0.05fF
C62 vdd C2_Inter_NOR 0.13fF
C63 w_63_n631# A3 0.06fF
C64 w_11_n591# B3 0.06fF
C65 P1_Not a_110_n467# 0.01fF
C66 w_63_n139# P0_Not 0.14fF
C67 w_11_n427# vdd 0.13fF
C68 gnd B3 0.09fF
C69 vdd G3_Not 0.02fF
C70 G3_Not a_110_n631# 0.02fF
C71 P0_Not gnd 0.41fF
C72 w_63_n139# B0 0.06fF
C73 vdd C0_Inter_01 0.02fF
C74 gnd B1 0.16fF
C75 vdd G1_Not 0.43fF
C76 B2 A2 1.61fF
C77 w_63_n303# a_134_n235# 0.10fF
C78 C0 C1_Inter_NAND 0.00fF
C79 B0 gnd 0.28fF
C80 P1_Not C1_Inter_NAND 0.23fF
C81 G0_Not a_110_n264# 0.01fF
C82 P0_Not a_134_n235# 0.07fF
C83 B0 Inter_S0 0.35fF
C84 w_63_n467# C1_inter_01 0.40fF
C85 G1_Not a_110_n303# 0.02fF
C86 C1_Inter_NAND C1_inter_NOR 0.07fF
C87 gnd Cin 0.02fF
C88 w_63_n631# G2_Not 0.40fF
C89 w_11_n591# A2 0.26fF
C90 C2_Inter_NAND C2_Inter_01 0.11fF
C91 gnd A2 0.35fF
C92 w_63_n467# a_134_n399# 0.10fF
C93 w_63_n631# C2_Inter_01 0.52fF
C94 C2_Inter_01 a_122_n509# 0.14fF
C95 w_63_n631# C2 0.06fF
C96 a_122_n509# C2 0.04fF
C97 a_24_n372# Inter_S1 0.05fF
C98 w_11_n99# A0 0.06fF
C99 w_63_n631# C3_Inter_NAND 0.15fF
C100 B3 G3_Not 0.52fF
C101 w_103_n173# gnd 0.00fF
C102 vdd a_161_n472# 0.01fF
C103 gnd a_188_n470# 0.02fF
C104 w_63_n303# vdd 0.30fF
C105 C0 a_188_n431# 0.02fF
C106 vdd B3 0.05fF
C107 w_11_n263# a_24_n208# 0.02fF
C108 Intermediate a_123_n363# 0.05fF
C109 gnd P3_Not 0.63fF
C110 w_63_n303# G1_Not 0.10fF
C111 w_11_n427# B1 0.40fF
C112 A0 G0_Not 0.37fF
C113 P0_Not vdd 0.43fF
C114 P0_Not C0_Inter_01 0.03fF
C115 A0 a_24_n208# 0.16fF
C116 Cin_Not a_110_n132# 0.19fF
C117 gnd C0 0.46fF
C118 P0_Not G1_Not 0.00fF
C119 vdd B1 0.05fF
C120 w_63_n303# a_110_n303# 0.09fF
C121 gnd C3_Inter_NOR 0.37fF
C122 gnd P1_Not 1.15fF
C123 G0_Not C1_Inter_NAND 0.04fF
C124 B3 Inter_S3 0.35fF
C125 A3 a_24_n700# 0.16fF
C126 A2 P2_Not 0.03fF
C127 B1 G1_Not 0.52fF
C128 B0 vdd 0.05fF
C129 vdd a_161_n636# 0.01fF
C130 P0_Not a_110_n303# 0.01fF
C131 gnd C1_inter_NOR 0.51fF
C132 gnd a_24_n372# 0.13fF
C133 w_63_n467# G2_Not 0.10fF
C134 a_110_n467# a_134_n399# 0.05fF
C135 w_11_n427# A2 0.06fF
C136 w_155_n650# P2_Not 0.06fF
C137 C2_Inter_NAND a_118_n511# 0.02fF
C138 C1_Inter_NAND C1_inter_01 0.09fF
C139 P2_Not P3_Not 0.06fF
C140 vdd A2 0.09fF
C141 w_63_n467# a_110_n467# 0.09fF
C142 gnd C2_Inter_NAND 0.29fF
C143 C0 a_123_n363# 0.00fF
C144 G2_Not a_110_n592# 0.01fF
C145 P2_Not C3_Inter_NOR 0.26fF
C146 P1_Not P2_Not 0.06fF
C147 Cin a_188_n306# 0.03fF
C148 w_63_n631# a_118_n511# 0.07fF
C149 a_122_n509# a_118_n511# 0.06fF
C150 G1_Not a_110_n428# 0.01fF
C151 C0 C2_Inter_NOR 0.04fF
C152 w_11_n706# A3 0.26fF
C153 P1_Not C2_Inter_NOR 0.26fF
C154 w_63_n139# G0_Not 0.25fF
C155 w_103_n173# vdd 0.15fF
C156 w_63_n303# P0_Not 0.68fF
C157 G3_Not P3_Not 0.60fF
C158 w_103_n173# C0_Inter_01 0.10fF
C159 w_155_n650# vdd 0.19fF
C160 vdd P3_Not 0.03fF
C161 Intermediate a_118_n347# 0.06fF
C162 w_11_n263# A1 0.06fF
C163 w_63_n303# B1 0.06fF
C164 w_63_n631# a_134_n563# 0.10fF
C165 w_63_n467# C1_Inter_NAND 0.42fF
C166 P3_Not a_110_n631# 0.15fF
C167 G0_Not gnd 0.16fF
C168 vdd C0 0.51fF
C169 gnd a_24_n208# 0.13fF
C170 vdd C3_Inter_NOR 0.13fF
C171 a_123_n363# C1 0.04fF
C172 a_24_n208# Inter_S0 0.05fF
C173 vdd P1_Not 0.12fF
C174 C0_Inter_01 C0 0.08fF
C175 w_11_n706# a_24_n700# 0.02fF
C176 C0 G1_Not 0.00fF
C177 B0 P0_Not 0.19fF
C178 P2_Not C2_Inter_NAND 0.23fF
C179 G1_Not P1_Not 1.04fF
C180 vdd C1_inter_NOR 0.13fF
C181 G0_Not a_134_n235# 0.24fF
C182 w_11_n427# a_24_n372# 0.02fF
C183 G2_Not a_110_n467# 0.02fF
C184 C0 a_110_n303# 0.09fF
C185 C2_Inter_NAND C2_Inter_NOR 0.07fF
C186 P1_Not a_110_n303# 0.15fF
C187 B2 a_24_n536# 0.17fF
C188 w_63_n467# B2 0.06fF
C189 w_63_n631# P2_Not 0.54fF
C190 A2 B3 0.02fF
C191 G2_Not C3_Inter_NAND 0.04fF
C192 vdd C1 0.16fF
C193 vdd C2_Inter_NAND 0.04fF
C194 C0 a_118_n347# 0.00fF
C195 w_63_n631# C2_Inter_NOR 0.14fF
C196 A1 B2 0.02fF
C197 G1_Not C2_Inter_NAND 0.04fF
C198 gnd a_134_n399# 0.93fF
C199 w_11_n591# a_24_n536# 0.02fF
C200 C0 a_176_n397# 0.01fF
C201 w_63_n631# G3_Not 0.10fF
C202 w_11_n591# A3 0.06fF
C203 w_11_n99# vdd 0.10fF
C204 w_63_n139# Cin_Not 0.06fF
C205 w_11_n263# A0 0.26fF
C206 B3 P3_Not 0.19fF
C207 w_63_n139# a_110_n132# 0.09fF
C208 w_63_n631# vdd 0.85fF
C209 gnd a_24_n536# 0.13fF
C210 vdd a_122_n509# 0.02fF
C211 gnd A3 0.42fF
C212 w_63_n303# C0 0.03fF
C213 w_63_n631# a_110_n631# 0.09fF
C214 w_63_n303# P1_Not 0.13fF
C215 vdd G0_Not 0.46fF
C216 Cin_Not gnd 0.02fF
C217 P0_Not C0 0.05fF
C218 G0_Not C0_Inter_01 0.15fF
C219 gnd A1 0.35fF
C220 P0_Not P1_Not 0.03fF
C221 G0_Not G1_Not 0.00fF
C222 B2 G2_Not 0.52fF
C223 B1 P1_Not 0.19fF
C224 gnd a_24_n700# 0.08fF
C225 P0_Not C1_inter_NOR 0.26fF
C226 G0_Not a_110_n303# 0.01fF
C227 vdd C1_inter_01 0.35fF
C228 w_63_n467# a_123_n363# 0.06fF
C229 C2_Inter_NAND a_161_n472# 0.01fF
C230 w_63_n467# P2_Not 0.13fF
C231 C0 Intermediate 0.04fF
C232 B1 a_24_n372# 0.17fF
C233 gnd G2_Not 0.15fF
C234 C1_inter_NOR Cin 0.04fF
C235 P2_Not a_110_n592# 0.01fF
C236 G2_Not a_134_n563# 0.24fF
C237 vdd a_134_n399# 0.17fF
C238 a_24_n536# Inter_S2 0.05fF
C239 C2_Inter_01 a_118_n511# 0.06fF
C240 a_188_n306# C1_inter_01 0.05fF
C241 w_63_n631# B3 0.06fF
C242 P1_Not a_110_n428# 0.01fF
C243 G1_Not a_134_n399# 0.24fF
C244 w_63_n139# A0 0.06fF
C245 A3 G3_Not 0.53fF
C246 w_155_n650# P3_Not 0.06fF
C247 w_63_n467# vdd 0.83fF
C248 w_11_n263# gnd 0.02fF
C249 w_63_n303# G0_Not 0.40fF
C250 w_103_n173# C0 0.15fF
C251 vdd A3 0.05fF
C252 C0 a_188_n470# 0.03fF
C253 C1_inter_01 a_118_n347# 0.06fF
C254 w_11_n263# Inter_S0 0.03fF
C255 gnd C3_Inter_NAND 0.06fF
C256 w_11_n427# A1 0.26fF
C257 w_63_n467# G1_Not 0.40fF
C258 w_155_n650# C3_Inter_NOR 0.06fF
C259 P0_Not G0_Not 0.46fF
C260 A0 gnd 0.42fF
C261 Cin_Not vdd 0.02fF
C262 w_11_n99# B0 0.06fF
C263 P3_Not C3_Inter_NOR 0.02fF
C264 C3_Inter_NAND a_134_n563# 0.09fF
C265 a_110_n132# C0_Inter_01 0.04fF
C266 vdd A1 0.09fF
C267 gnd C1_Inter_NAND 0.29fF
C268 G2_Not P2_Not 1.04fF
C269 C0 P1_Not 0.07fF
C270 A1 G1_Not 0.53fF
C271 B0 G0_Not 0.29fF
C272 B0 a_24_n208# 0.17fF
C273 w_63_n467# a_188_n306# 0.24fF
C274 P2_Not a_110_n467# 0.15fF
C275 P1_Not C1_inter_NOR 0.02fF
C276 C1_Inter_NAND a_134_n235# 0.09fF
C277 w_63_n467# a_118_n347# 0.07fF
C278 a_24_n700# Inter_S3 0.05fF
C279 gnd Inter_S1 0.28fF
C280 w_11_n427# G2_Not 0.15fF
C281 w_11_n591# B2 0.40fF
C282 G2_Not G3_Not 0.00fF
C283 C1_Inter_NAND a_161_n308# 0.01fF
C284 gnd B2 0.16fF
C285 vdd G2_Not 0.43fF
C286 C0 C1 0.11fF
C287 G2_Not a_110_n631# 0.01fF
C288 C0 C2_Inter_NAND 0.01fF
C289 G1_Not G2_Not 0.00fF
C290 P1_Not C2_Inter_NAND 0.00fF
C291 w_63_n631# a_188_n470# 0.24fF
C292 C1_inter_01 Intermediate 0.14fF
C293 G1_Not a_110_n467# 0.01fF
C294 B3 A3 1.61fF
C295 w_63_n631# P3_Not 0.13fF
C296 w_63_n467# P0_Not 0.06fF
C297 w_103_n173# G0_Not 0.06fF
C298 vdd C2_Inter_01 0.33fF
C299 w_11_n263# vdd 0.13fF
C300 w_11_n591# gnd 0.02fF
C301 w_11_n706# vdd 0.02fF
C302 vdd C2 0.16fF
C303 gnd a_118_n511# 0.02fF
C304 w_63_n303# A1 0.06fF
C305 w_63_n631# C0 0.06fF
C306 vdd C3_Inter_NAND 0.03fF
C307 w_11_n263# G1_Not 0.15fF
C308 P0_Not Cin_Not 0.18fF
C309 A0 vdd 0.09fF
C310 w_63_n631# P1_Not 0.06fF
C311 P0_Not a_110_n132# 0.03fF
C312 G0_Not C0 0.05fF
C313 gnd Inter_S0 0.28fF
C314 gnd a_134_n563# 0.95fF
C315 w_11_n706# Inter_S3 0.03fF
C316 B3 a_24_n700# 0.17fF
C317 vdd C1_Inter_NAND 0.03fF
C318 G0_Not P1_Not 0.00fF
C319 B2 P2_Not 0.19fF
C320 B1 A1 1.61fF
C321 P0_Not a_110_n264# 0.01fF
C322 w_63_n467# Cin 0.06fF
C323 gnd a_134_n235# 0.93fF
C324 w_11_n427# Inter_S1 0.03fF
C325 w_63_n467# Intermediate 0.03fF
C326 Inter_S3 Gnd 0.08fF
C327 a_24_n700# Gnd 0.61fF
C328 C3_Inter_NOR Gnd 0.15fF
C329 a_134_n563# Gnd 0.18fF
C330 a_110_n631# Gnd 0.17fF
C331 C3_Inter_NAND Gnd 0.63fF
C332 P3_Not Gnd 0.04fF
C333 G3_Not Gnd 0.12fF
C334 A3 Gnd 0.11fF
C335 B3 Gnd 0.55fF
C336 C2 Gnd 0.09fF
C337 a_118_n511# Gnd 0.12fF
C338 a_122_n509# Gnd 0.17fF
C339 Inter_S2 Gnd 0.07fF
C340 a_24_n536# Gnd 0.01fF
C341 C2_Inter_01 Gnd 0.55fF
C342 a_188_n470# Gnd 0.05fF
C343 C2_Inter_NOR Gnd 0.28fF
C344 a_134_n399# Gnd 0.14fF
C345 a_110_n467# Gnd 0.17fF
C346 C2_Inter_NAND Gnd 0.57fF
C347 G2_Not Gnd 2.16fF
C348 B2 Gnd 1.42fF
C349 C1 Gnd 0.09fF
C350 a_123_n363# Gnd 0.11fF
C351 a_118_n347# Gnd 0.12fF
C352 Intermediate Gnd 0.06fF
C353 Inter_S1 Gnd 0.08fF
C354 a_24_n372# Gnd 0.61fF
C355 C1_inter_01 Gnd 0.66fF
C356 a_188_n306# Gnd 0.39fF
C357 Cin Gnd 0.12fF
C358 C1_inter_NOR Gnd 0.31fF
C359 a_134_n235# Gnd 0.31fF
C360 a_110_n303# Gnd 0.17fF
C361 C1_Inter_NAND Gnd 0.42fF
C362 P1_Not Gnd 0.01fF
C363 G1_Not Gnd 2.16fF
C364 A1 Gnd 0.11fF
C365 B1 Gnd 0.41fF
C366 C0 Gnd 0.24fF
C367 Inter_S0 Gnd 0.08fF
C368 a_24_n208# Gnd 0.61fF
C369 C0_Inter_01 Gnd 0.12fF
C370 a_110_n132# Gnd 0.09fF
C371 gnd Gnd 4.83fF
C372 G0_Not Gnd 0.05fF
C373 vdd Gnd 4.43fF
C374 P0_Not Gnd 0.02fF
C375 A0 Gnd 0.23fF
C376 B0 Gnd 0.36fF
C377 w_11_n706# Gnd 1.44fF
C378 w_155_n650# Gnd 0.82fF
C379 w_11_n591# Gnd 3.14fF
C380 w_63_n631# Gnd 11.24fF
C381 w_11_n427# Gnd 3.14fF
C382 w_63_n467# Gnd 0.65fF
C383 w_63_n303# Gnd 6.44fF
C384 w_11_n263# Gnd 3.14fF
C385 w_103_n173# Gnd 1.09fF
C386 w_63_n139# Gnd 0.51fF
C387 w_11_n99# Gnd 1.41fF

VA3 A3 gnd 0
VA2 A2 gnd 0
VA1 A1 gnd 0
VA0 A0 gnd 0

VB3 B3 gnd 0
VB2 B2 gnd 'SUPPLY'
VB1 B1 gnd 'SUPPLY'
VB0 B0 gnd pulse 0 'SUPPLY' 1n 0 0 25ns 50ns

VCin Cin gnd 'SUPPLY'
VCin_Not Cin_Not gnd 0

.tran 10p 50n

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3

let in_A3 = 'A3 + 26'
let in_A2 = 'A2 + 24'
let in_A1 = 'A1 + 22'
let in_A0 = 'A0 + 20'

let in_B3 = 'B3 + 18'
let in_B2 = 'B2 + 16'
let in_B1 = 'B1 + 14'
let in_B0 = 'B0 + 12'

let in_Cin = 'Cin + 10'

* let out_Cout = 'Cout + 8'
* let out_S3 = 'S3 + 6'
let out_C2 = 'C2 + 4'
let out_C1 = 'C1 + 2'
let out_C0 = 'C0'

* plot in_A3 in_A2 in_A1 in_A0 in_B3 in_B2 in_B1 in_B0 in_Cin out_Cout out_S3 out_S2 out_S1 out_S0
plot in_A3 in_A2 in_A1 in_A0 in_B3 in_B2 in_B1 in_B0 in_Cin out_C2 out_C1 out_C0
* plot Inter_S0 Inter_S1+2 Inter_S2+4 Inter_S3+6
* plot P0_Not P1_Not+2 P2_Not+4 P3_Not+6
* plot G0_Not G1_Not+2 G2_Not+4 G3_Not+6
plot C1_inter_NAND + 4 C1_inter_01 + 2 Intermediate

.endc

.end